US07994171B2
tert-butyl 1-propioloylcyclopropylcarbamate.
To a stirred solution of tert-butyl 1-(methoxy(methyl)carbamoyl)cyclopropylcarbamate (5.0 g, 20.49 mmol, 1.0 eq) in THF at −78° C. was added (trimethylsilyl)acetylene (6.36 g, 61.15 mmol, 3.0 eq), and the stirring continued at the same temperature for 5 hr. Product formation was confirmed by LCMS. Saturated NH4Cl solution was added to the reaction mixture, which was then extracted with EtOAC. The organic layer was washed with brine, dried over Na2SO4 and concentrated. The crude product was purified by column chromatography using silica gel (60-120). The desired compound was eluted with 15% EtOAC in Pet ether. Yield: 1.5 g (35.70%).

reactant | tert-butyl 1-(methoxy(methyl)carbamoyl)cyclopropylcarbamate | 20.49 mmol, 5.0 g, 1.0 eq | CON(C(=O)C1(CC1)NC(OC(C)(C)C)=O)C | C11H20N2O4
reactant | (trimethylsilyl)acetylene | 61.15 mmol, 6.36 g, 3.0 eq | C[Si](C)(C)C#C | C5H10Si
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
product | tert-butyl 1-propioloylcyclopropylcarbamate | C(C#C)(=O)C1(CC1)NC(OC(C)(C)C)=O | C11H15NO3
